US07851473B2
(1) 2-Bromo-1-phenylbutan-1-one
To a solution of 1-phenylbutan-1-one (10.0 g, 67.5 mmol) in diethyl ether (200 ml) was slowly added dropwise bromine (10.8 g, 67.5 mmol), and the mixture was stirred at room temperature for 4 hours. The reaction solution was distilled off under reduced pressure to give the desired product (11.1 g, 72.3%) as an oil.

reactant | 1-phenylbutan-1-one | 67.5 mmol, 10.0 g | C1(=CC=CC=C1)C(CCC)=O | C10H12O
reactant | bromine | 67.5 mmol, 10.8 g | BrBr | Br2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-Bromo-1-phenylbutan-1-one | 11.1 g, 72.3% | BrC(C(=O)C1=CC=CC=C1)CC | C10H11BrO
